US04766127
A solution of 4.5 g of 2-bromo-6-(2-methyl-1,3-dioxolan-2-yl)naphthalene in 30 ml of tetrahydrofuran was cooled to -78° C. under nitrogen, and 14.0 ml of 2.2M t-butyl lithium added dropwise. A solution of 1.64 g of 3-pyridinecarboxaldehyde in 15 ml of tetrahydrofuran was added over a period of 10 minutes, and the temperature was allowed to rise to -20° C. during the next 30 minutes. The reaction was quenched with 30 ml of water and the mixture extracted with methylene chloride. The organic layer was dried over sodium sulfate and solvent removed under reduced pressure to give a solid that was recrystallized from methylene chloride/diethyl ether to give 3.1 g of 2-[(3-pyridyl)hydroxymethyl]-6-(2-methyl-1,3-dioxolan-2-yl)naphthalene, m.p. 154°-156° C.

reactant | 2-bromo-6-(2-methyl-1,3-dioxolan-2-yl)naphthalene | 4.5 g | BrC1=CC2=CC=C(C=C2C=C1)C1(OCCO1)C | C14H13BrO2
reactant | t-butyl lithium | 2.2M, 14.0 ml | C(C)(C)(C)[Li]
reactant | 3-pyridinecarboxaldehyde | 1.64 g | N1=CC(=CC=C1)C=O | C6H5NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-[(3-pyridyl)hydroxymethyl]-6-(2-methyl-1,3-dioxolan-2-yl)naphthalene | 3.1 g | N1=CC(=CC=C1)C(C1=CC2=CC=C(C=C2C=C1)C1(OCCO1)C)O | C20H19NO3
